US08686152B2
To a solution of piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-cyclohexylmethyl ester (6.61 mmol; 2.15 g) in dry THF (30 mL) under argon at −78° C. was added, dropwise, a 2M solution of lithium diisopropylamide (2M solution in heptanes/THF/ethylbenzene; 8.59 mmol; 4.29 mL). The resulting solution was stirred at −78° C. for 2 hours. 4-Bromomethyl-benzonitrile (6.61 mmol; 1.30 g) was added and the resulting solution was stirred at −78° C. for 2 hours, then allowed to warm to room temperature overnight. Ethyl acetate (150 ml) was added. The resulting solution was washed with a 1M aqueous hydrochloric acid solution (2×50 mL) and brine (50 mL) and dried over magnesium sulfate. After filtration and evaporation, the residue was purified via flash column chromatography (eluent gradient: 0 to 50% EtOAc in heptane) to yield 4-(4-cyano-benzyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-cyclohexylmethyl ester. MS (ESI) m/z 436.38 [M+Na]+.

reactant | piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-cyclohexylmethyl ester | 6.61 mmol, 2.15 g | C1CCC(CC1)COC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C18H31NO4
reactant | lithium diisopropylamide | 8.59 mmol, 2M, 4.29 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-Bromomethyl-benzonitrile | 6.61 mmol, 1.30 g | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
reactant | Ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-(4-cyano-benzyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-cyclohexylmethyl ester | C1CCC(CC1)COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C#N | C26H36N2O4
